US08283354B2
To a solution of (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one (265 mg, 0.63 mmol) in CH2Cl2 (3 mL) under inert atmosphere was added 10 mL of ether followed by the dropwise addition of 2 M HCl (0.315 mL, 0.63 mmol). The reaction was stirred for 30 min before the formed precipitate was filtered to afford (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one hydrochloride (261 mg, 91%). LC/MS: m/z 421.3 (M+H)+ at 2.60 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.28 (dd, J=7.9, 1.6 Hz, 1H), 8.19 (d, J=8.4 Hz, 1H), 7.96 (d, J=3.9 Hz, 2H), 7.65 (m, 1H), 7.48 (m, 1H), 7.04 (m, 2H), 4.37 (m, 1H), 4.10 (m, 4H), 3.80 (m, 4H), 1.77 (m, 1H), 1.41 (m, 2H), 0.91 (dd, J=6.6, 3.1 Hz, 6H).

reactant | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one | 0.63 mmol, 265 mg | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O)CC(C)C | C24H28N4O3
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | HCl | 0.63 mmol, 2 M, 0.315 mL | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-4-methylpentan-1-one hydrochloride | 261 mg, 91% | Cl.O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O)CC(C)C | InChI=1S/C24H28N4O3.ClH/c1-16(2)15-21(30)24(31)28-13-11-27(12-14-28)23-17-7-3-5-9-19(17)25-22(26-23)18-8-4-6-10-20(18)29;/h3-10,16,21,29-30H,11-15H2,1-2H3;1H/t21-;/m1./s1
